US05962458
2-Fluoro-5-hydroxy-4-methylaniline (170 mg, 1.2 mmol), (prepared as described for the starting material in Example 13), was added to a solution of 7-benzyloxy-4-chloroquinazoline hydrochloride (307 mg, 1 mmol) in 2-pentanol (5 ml) and the mixture stirred at 120° C. for 2 hours. The mixture was allowed to cool and the resulting precipitate was collected by filtration, washed with isopropanol and then ether and dried under vacuum at 70° C. to give 7-benzyloxy-4-(2-fluoro-5-hydroxy-4-methylanilino)quinazoline hydrochloride (331 mg, 80%).

reactant | 2-Fluoro-5-hydroxy-4-methylaniline | 1.2 mmol, 170 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
reactant | 7-benzyloxy-4-chloroquinazoline hydrochloride | 1 mmol, 307 mg | Cl.C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)Cl
solvent | 2-pentanol | 5 ml | CC(CCC)O | C5H12O
product | 7-benzyloxy-4-(2-fluoro-5-hydroxy-4-methylanilino)quinazoline hydrochloride | 331 mg, 80% | Cl.C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)O)C)F | InChI=1S/C22H18FN3O2.ClH/c1-14-9-18(23)20(11-21(14)27)26-22-17-8-7-16(10-19(17)24-13-25-22)28-12-15-5-3-2-4-6-15;/h2-11,13,27H,12H2,1H3,(H,24,25,26);1H
